US07816371B2
c. (R)-2-(6-Cyclopropyl-5-(2-(3-fluoro-4-(trifluoromethyl)phenyl)acetamido)-1-oxoisoquinolin-2(1H)-yl)propyl acetate
A reaction vial was charged with (R)-2-(5-amino-6-cyclopropyl-1-oxoisoquinolin-2(1H)-yl)propyl acetate (23.0 mg, 0.0000766 mol), 2-(3-fluoro-4-(trifluoromethyl)phenyl)acetic acid (26 mg, 0.00011 mol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (73 mg, 0.00019 mol), N,N-diisopropylethylamine (33 μL, 0.00019 mol) and methylene chloride (2 mL, 0.03 mol) and the reaction stirred at 40° C. over night. The solvent was removed and the residue purified by flash chromatography (0-70% ethylacetate) to obtain the product as light yellow solid. MS m/z=505.3 (M+H).

reactant | (R)-2-(5-amino-6-cyclopropyl-1-oxoisoquinolin-2(1H)-yl)propyl acetate | 0.0000766 mol, 23.0 mg | C(C)(=O)OC[C@@H](C)N1C(C2=CC=C(C(=C2C=C1)N)C1CC1)=O | C17H20N2O3
reactant | 2-(3-fluoro-4-(trifluoromethyl)phenyl)acetic acid | 0.00011 mol, 26 mg | FC=1C=C(C=CC1C(F)(F)F)CC(=O)O | C9H6F4O2
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.00019 mol, 73 mg | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 0.00019 mol, 33 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methylene chloride | 0.03 mol, 2 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-(6-Cyclopropyl-5-(2-(3-fluoro-4-(trifluoromethyl)phenyl)acetamido)-1-oxoisoquinolin-2(1H)-yl)propyl acetate | C(C)(=O)OC[C@@H](C)N1C(C2=CC=C(C(=C2C=C1)NC(CC1=CC(=C(C=C1)C(F)(F)F)F)=O)C1CC1)=O | C26H24F4N2O4
